* C:\Users\Sabrina Ghidossi\Desktop\ITBA\3 ano 2 C\Electronica 1\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N001 vin N004 0 BC547B
Q2 N001 N004 vout 0 BC547B
R1 N001 vin 1k
Vcc N001 0 9
C1 vin N003 100n
Vs N002 0 SINE(0 10m 10k)
Rs N003 N002 100
M1 N005 N005 0 0 BS170
M2 vout N005 0 0 BS170
Rref N001 N005 660
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sabrina Ghidossi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Sabrina Ghidossi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m
.backanno
.end
