* C:\Users\Sabrina Ghidossi\Desktop\ITBA\3 ano 2 C\Electronica 1\Electro1\Trabajo Práctico 2\LTSPICE\carga_activa\darlington.asc
Q1 N001 vin N005 0 BC547B
Q2 N001 N005 vout 0 BC547B
R1 N001 vin 1k
Vcc N001 0 9
C1 vin N004 100n
Vs N003 0 SINE(0 10m 10k)
Rs N004 N003 100
M1 N006 N006 0 0 BS170
M2 vout N006 0 0 BS170
Rref N001 N006 660
Vcc1 N002 0 9
M3 N007 N007 0 0 BS170
M4 N008 N007 0 0 BS170
Rref1 N002 N007 660
R2 N002 N008 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sabrina Ghidossi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Sabrina Ghidossi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m
.backanno
.end
